US09403846B2
Step 1. Synthesis of rel-(3R,3aR,5R)-5-cyclopropyl-3-(fluoromethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C43)
N-(Difluoro-λ4-sulfanylidene)-N-ethylethanaminium tetrafluoroborate (XtalFluor-E, 766 mg, 3.35 mmol) was added to a solution of triethylamine trihydrofluoride (727 μL, 4.46 mmol) in dichloromethane (11 mL). rel-[(3R,3aR,5R)-5-Cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol (C37) (440 mg, 2.23 mmol) was added, and the reaction mixture was stirred for 2 hours at room temperature. Aqueous sodium bicarbonate solution was added, and the mixture was stirred for 15 minutes, then extracted twice with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 50% ethyl acetate in heptane) afforded the product as an oil. Yield: 180 mg, 0.904 mmol, 41%. 1H NMR (400 MHz, CDCl3) δ 4.63 (ddd, half of ABX pattern, J=47.4, 10.4, 3.5 Hz, 1H), 4.62 (br d, J=13.3 Hz, 1H), 4.54 (ddd, half of ABX pattern, J=46.7, 10.3, 4.2 Hz, 1H), 4.32 (dddd, J=20.2, 10.3, 3.9, 3.8 Hz, 1H), 4.10 (dd, J=13.4, 1.2 Hz, 1H), 3.28 (br ddd, J=11, 11, 6.5 Hz, 1H), 2.81 (ddd, J=11.0, 7.9, 1.9 Hz, 1H), 2.25 (ddd, J=12.8, 6.5, 1.7 Hz, 1H), 1.61-1.72 (m, 1H), 0.85-0.94 (m, 1H), 0.47-0.59 (m, 2H), 0.34-0.41 (m, 1H), 0.18-0.25 (m, 1H).

reactant | N-(Difluoro-λ4-sulfanylidene)-N-ethylethanaminium tetrafluoroborate | 3.35 mmol, 766 mg | F[B-](F)(F)F.FS(=[N+](CC)CC)F
reactant | triethylamine trihydrofluoride | 4.46 mmol, 727 μL | F.F.F.C(C)N(CC)CC
reactant | rel-[(3R,3aR,5R)-5-Cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazol-3-yl]methanol | 2.23 mmol, 440 mg | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2CO)CO1 | C10H15NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | rel-(3R,3aR,5R)-5-cyclopropyl-3-(fluoromethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2CF)CO1 | C10H14FNO2
